US06245773B1
(+)-6-(3,4-Difluorophenyl)-1,6-dihydro-5-methoxycarbonyl-2-methoxymethyl-4-methyl-1-(5-(4-(2-methylphenyl)-4-(4-methyl-phenyl)piperidin-1-yl)pentyl)pyrimidine
A mixture of (+)-1-(5-bromopentyl)-6-(3,4-difluorophenyl)-1,6-dihydro-5-methoxycarbonyl-2-methoxymethyl-4-methylpyrimidine (0.08 g, 0.17 mmol.), 4-(2-methylphenyl)-4-(4-methylphenyl)piperidine hydrochloride (0.063 g, 0.21 mmol.), potassium carbonate (0.14 g, 1.0 mmol.), sodium iodide (26 mg, 0.17 mmol.) and acetone (6 mL) was refluxed overnight. The undissolved solid was then filtered off and the solvent was evaporated. The residue was flash chromatographed over silica gel (eluent: 10:1 ethyl acetate/2M ammonia in methanol) to give the title compound in 89% yield (0.1 g) as a yellow oil. Treatment of the free base with 2 equivalents of 1M HCl in ether gave the HCl salt as a pale yellow solid: mp 137-140° C.; [α]D=56.5 (1.65 mg/mL, MeOH). Anal. Calc. for C39H47F2N3O3.2HCl.2H2O.0.75CHCl3: C, 56.68; H, 6.43; N, 4.99. Found: C, 56.55; H, 6.19; N, 5.02.

reactant | (+)-1-(5-bromopentyl)-6-(3,4-difluorophenyl)-1,6-dihydro-5-methoxycarbonyl-2-methoxymethyl-4-methylpyrimidine | 0.17 mmol, 0.08 g | BrCCCCCN1C(=NC(=C(C1C1=CC(=C(C=C1)F)F)C(=O)OC)C)COC | C20H25BrF2N2O3
reactant | 4-(2-methylphenyl)-4-(4-methylphenyl)piperidine hydrochloride | 0.21 mmol, 0.063 g | Cl.CC1=C(C=CC=C1)C1(CCNCC1)C1=CC=C(C=C1)C
reactant | potassium carbonate | 1.0 mmol, 0.14 g | C([O-])([O-])=O.[K+].[K+]
reactant | sodium iodide | 0.17 mmol, 26 mg | [I-].[Na+]
solvent | acetone | 6 mL | CC(=O)C | C3H6O
product | (+)-6-(3,4-Difluorophenyl)-1,6-dihydro-5-methoxycarbonyl-2-methoxymethyl-4-methyl-1-(5-(4-(2-methylphenyl)-4-(4-methyl-phenyl)piperidin-1-yl)pentyl)pyrimidine | 89% yield | FC=1C=C(C=CC1F)C1C(=C(N=C(N1CCCCCN1CCC(CC1)(C1=CC=C(C=C1)C)C1=C(C=CC=C1)C)COC)C)C(=O)OC | C39H47F2N3O3
